US04719054
15α-Acetoxy-3-ethoxy-18-methyl-3,5-estradien-17-one
Under argon, 2.0 g of 15α-acetoxy-18-methyl-4-estrene-3,17-dione in 60 ml of dioxane is agitated at room temperature for 20 hours with 6 ml of triethyl orthoformate and 40 mg of p-toluenesulfonic acid. After adding 2 ml of pyridine, the mixture is diluted with ether, washed with water, and dried. The crude product is recrystallized from acetone/hexane. Yield: 1.6 g of 15α-acetoxy-3-ethoxy-18-methyl-3,5-estradien-17-one. Melting point: 202° C.

reactant | 15α-acetoxy-18-methyl-4-estrene-3,17-dione | 2.0 g | C(C)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C21H28O4
reactant | triethyl orthoformate | 6 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 15α-Acetoxy-3-ethoxy-18-methyl-3,5-estradien-17-one | C(C)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CC=C3C=C(CC[C@@H]3[C@H]1CC2)OCC)=O | C23H32O4
